US09061994B1
Synthesis of 2-methylindole-3-carboxaldehyde (2a)
To a dried 300 mL two-neck round bottom flask under argon at 0° C., N,N-dimethylformamide (3 mL) was added, followed by POCl3 (1.05 mL, 11.3 mmol). After stirring for ten minutes, 2-methylindole (1.23 g, 9.37 mmol) dissolved in DMF (6 mL) was added dropwise via an addition funnel under argon. After two hours, 1 N NaOH (70 mL) was added slowly, upon which a white precipitate formed. The solid was filtered and dried under vacuum, yielding 1.32 g (89%) of white solid. 1H NMR (600 MHz, d6-DMSO): δ 11.998 (s, 1H, N—H), 10.050 (s, 1H, CHO), 8.044-8.032 (d, J=7.2, 1H, indole-4H), 7.388-7.375 (d, J=7.8, 1H, indole-7H), 7.183-7.135 (m, 2H, indole-5,6H), 2.679 (s, 3H, methyl). 13C NMR (150 MHz, d6-DMSO): δ 184.3, 148.6, 135.4, 125.6, 122.7, 121.9, 120.0, 113.7, 111.4, 11.5. Melting Point: 195-200° C. TLC (ethyl acetate:hexanes 4:1) Rf=0.39. Elemental analysis calculated for C10H9NO: C, 75.45; H, 5.70; N, 8.80. found: C, 75.23; H, 5.70; N, 8.93.

reactant | POCl3 | 11.3 mmol, 1.05 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-methylindole | 9.37 mmol, 1.23 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | NaOH | 1 N, 70 mL | [OH-].[Na+]
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-methylindole-3-carboxaldehyde | 1.32 g, 89% | CC=1NC2=CC=CC=C2C1C=O | C10H9NO
